US08871753B2
Step E: 6-Chloro-2,4,8,20,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
To a mixture of N-{3-[2-(6-aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride (50 mg, 0.12 mmol) and triethylamine (0.048 mL, 0.35 mmol) in a mixed solvent of 1,4-dioxane (0.80 mL) and N,N-dimethylformamide (0.80 mL) were added (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (8.0 mg, 0.014 mmol), palladium acetate (3.1 mg, 0.014 mmol) and cesium carbonate (75.2 mg, 0.23 mmol). The mixture was degassed by bubbling N2 through the solution. The sealed tube was then microwaved at 160° C. for 30 min. The reaction mixture was diluted with THF/MeOH, filtered and concentrated to give the residue, which was purified by silica gel column chromatography to provide the desired product as a white powder (14 mg, 37%). LCMS for C17H15ClN5 (M+H)+: m/z=324.0. 1H NMR (400 MHz, CD3OD): δ 8.70 (s, 1H), 8.02 (s, 1H), 7.63 (d, J=7.6 Hz, 1H), 7.07 (m, 2H), 6.90 (dd, J=8.0, 1.6 Hz, 1H), 6.84 (d, J=8.0 Hz, 1H), 6.79 (d, J=8.0 Hz, 1H), 3.22 (s, 4H).

reactant | N-{3-[2-(6-aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 0.12 mmol, 50 mg | Cl.Cl.NC1=CC=CC(=N1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl
reactant | triethylamine | 0.35 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.014 mmol, 8.0 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 0.23 mmol, 75.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium acetate | 0.014 mmol, 3.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 0.80 mL | CN(C=O)C | C3H7NO
solvent | 1,4-dioxane | 0.80 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-2,4,8,20,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 14 mg, 37% | ClC=1C=NC=2NC=3C=CC=C(CCC4=CC=CC(NC1N2)=C4)N3 | C17H14ClN5
